US07256198B2
Step 2: 8′-{[(2S)-2-(morpholin-4-ylmethyl)pyrrolidin-1-yl]sulfonyl}spiro[cyclopentane-1,3′-pyrimido[1,2-a]indol]-10′(2′H)-one
The title compound was prepared as a orange solid from 5-{[(2S)-2-(morpholin-4-ylmethyl)pyrrolidin-1-yl]sulfonyl}-1H-indole-2,3-dione and 1-chloromethyl-cyclopentanecarbonitrile (Syn. Comm. 20(12) 1757, 1990) using a procedure similar to that of steps 3-5 of Example 12. NMR (400 Mz, DMSO-d6): consistent. MS: (ES−) m/z 471 [M−H]. m.p.: 162.9-163.6° C.

reactant | 5-{[(2S)-2-(morpholin-4-ylmethyl)pyrrolidin-1-yl]sulfonyl}-1H-indole-2,3-dione | N1(CCOCC1)C[C@H]1N(CCC1)S(=O)(=O)C=1C=C2C(C(NC2=CC1)=O)=O | C17H21N3O5S
reactant | 1-chloromethyl-cyclopentanecarbonitrile | ClCC1(CCCC1)C#N | C7H10ClN
product | 8′-{[(2S)-2-(morpholin-4-ylmethyl)pyrrolidin-1-yl]sulfonyl}spiro[cyclopentane-1,3′-pyrimido[1,2-a]indol]-10′(2′H)-one | N1(CCOCC1)C[C@H]1N(CCC1)S(=O)(=O)C1=CC=2C(C=3N(C2C=C1)CC1(CN3)CCCC1)=O | C24H32N4O4S
